US04792628
One gram of 1-amino-7-hydroxy-4-methylindane hydrochloride was dissolved in 20 ml of water, then 5 ml of 3N-hydrochloric acid solution containing 0.85 g of iodine monochloride was added dropwise at a room temperature under vigorous stirring condition. The reaction mixture was stirred at the same temperature for 2 hours, then ice-cooled. The crystals precipitated were collected by filtration, and changed them to hydrochloride, washed with ether and dried. 0.70 Grams of 1-amino-7-hydroxy-6-iodo-4-methylindane hydrochloride was obtained in the form of yellow needle-like crystals. Melting point: Over 200° C. (decomp.).

reactant | 1-amino-7-hydroxy-4-methylindane hydrochloride | One gram | Cl.NC1CCC2=C(C=CC(=C12)O)C
reactant | hydrochloric acid | Cl | ClH
reactant | iodine monochloride | 0.85 g | ICl | ClI
solvent | water | 20 ml | O | H2O
product | 1-amino-7-hydroxy-6-iodo-4-methylindane hydrochloride | Cl.NC1CCC2=C(C=C(C(=C12)O)I)C | InChI=1S/C10H12INO.ClH/c1-5-4-7(11)10(13)9-6(5)2-3-8(9)12;/h4,8,13H,2-3,12H2,1H3;1H
